Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
erythromycin (bulk) / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ - laparoscopic appendectomy

 
History of Present Illness:
___ p/w lower abdominal pain since mid-afternoon on ___, 
associated with pelvic cramping and bloating.  She reports 
having begun her menstrual period that afternoon and noted a low 
grade temp to 100 overnight on ___.  The pain resolved 
overnight, and she scheduled an appointment with her PCP
___, but was able to go shopping ___ morning.  
She reports that the area was still somewhat tender to palpation 
when she presented for PCP evaluation yesterday (___) 
afternoon, and she was referred to the ___ ED for CT 
evaluation. When this was concerning for appendicitis, she 
requested transfer to ___ for surgical evaluation.

Of note, Ms. ___ reports having had two prior episodes of the 
same pain - the first around ___, and the second 
approximately 3 weeks ago, and she has been undergoing 
gynecologic workup for uterine fibroids and ovarian cysts.  Last 
colonoscopy normal ___.
 
Past Medical History:
Past Medical History:  pSVT, HLD, GERD, constipation, hearing
impairment, menorrhagia

Past Surgical History:  R breast biopsy (benign)

 
Social History:
___
Family History:
NC
 
Physical Exam:
Upon Discharge
Vitals:   98.3 77 107/56 18 98% RA
GEN: A&Ox3, pleasant, nontoxic, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: Regular
PULM: Clear
ABD: Soft, nondistended, mild tenderness to palpation 
appropriately near incisions, no rebound, incisions 
clean/dry/intact with no erythema/drainage
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 03:36AM BLOOD WBC-6.3 RBC-3.66* Hgb-11.6* Hct-33.6* 
MCV-92 MCH-31.6 MCHC-34.5 RDW-13.8 Plt ___
___ 03:36AM BLOOD Neuts-72.6* ___ Monos-4.3 Eos-0.5 
Baso-0.6
___ 03:36AM BLOOD Plt ___
___ 03:36AM BLOOD Glucose-81 UreaN-11 Creat-0.6 Na-142 
K-4.1 Cl-108 HCO3-26 AnGap-12
 
Brief Hospital Course:
Ms. ___ underwent a laparoscopic appendectomy on ___ for 
acute appendicitis. The procedure went without complication,  
reader is referred to the Operative Note for further details.

Thereafter,  she returned to the general surgical floor, where 
she was given a clear liquid diet to be advanced as tolerated to 
regular diet. She tolerated this very well. She was given oral 
pain medications, as well as essential home medications. She was 
able to void independently, and was able to ambulate without 
difficulty. She expressed feeling prepared to complete her 
recovery at home, and was discharged home in good condition. She 
will plan to follow-up in ___ clinic. She will also plan to see 
her Ob-Gyn for further discussion regarding incidentally 
discovered enlarging uterine fibroids
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Ranitidine 150 mg PO DAILY 

 
Discharge Medications:
1. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0
2. Atenolol 25 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Ranitidine 150 mg PO DAILY 
5. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the ___ Acute Care Surgery service in the 
setting of abdominal pain concerning for appendicitis. You 
underwent surgery for this condition. Now that you are able to 
tolerate regular diet and oral medication, you may return home 
for the remainder of your recovery. Please pay close attention 
to your discharge instructions.

*Wound Care*
You have several incisions on your abdomen. You may have some 
small, tape like dressing over your incision. Leave these in 
place - they will fall off on their own. You may shower. Do not 
scrub over the incisions; wash over your incisions and allow the 

soap to fall over the wounds. If you notice any redness, 
increased pain, or any concerning changes in these incisions, 
please notify your physician.

*Diet*
You may eat a regular diet without restrictions.

*Activity*
You may resume all of your normal daily activities. We ask that 
you avoid swimming or heavy lifting for at least ___ weeks, at 
least until your follow up in clinic. Avoid driving or class if 
you still require narcotics for pain control.

*Medications*
Please take all medications as prescribed. If you require 
narcotic medications for pain control, do not drive. You may 
take tylenol or ibuprofen for pain control.

*Other*
You were incidentally found to have enlarging uterine fibroids. 
Please be sure to follow-up with your Ob-Gyn doctor regarding 
this.
*Warning Signs*
Below is a list of signs that you should be mindful of upon 
discharge. If you notice any of these signs, please call your 
physician or go to your nearest emergency department for prompt 
evaluation.

Good luck with your recovery.
 
Followup Instructions:
___